US08536157B2
(E)-5,6-Dimethoxy-2,3-dihydroinden-1-one O-4-Nitrobenzyl Oxime (1-TB-54)
5,6-Dimethoxy-1-indanone (104 mg, 0.54 mmol) was subjected to reaction with (4-nitrobenzyl)hydroxylamine hydrochloride (125 mg, 0.61 mmol) in ethanol (5 mL) and pyridine (0.7 mL, 9.03 mmol) under the same conditions as described for (E)-6,7-dimethoxy-3,4-dihydronaphthalen-1(2H)-one O-4-nitrobenzyl oxime. Subjection of the material obtained on work up to flash chromatography (3:7 v/v ethyl acetate/hexane elution) afforded a ca. 3:1 mixture of the E- and Z-isomeric forms of the title compound (98 mg, 53%) as a pale-yellow crystalline solid, m.p. 139-144° C., Rf 0.3.

reactant | 5,6-Dimethoxy-1-indanone | 0.54 mmol, 104 mg | COC=1C=C2CCC(C2=CC1OC)=O | C11H12O3
reactant | (4-nitrobenzyl)hydroxylamine hydrochloride | 0.61 mmol, 125 mg | Cl.[N+](=O)([O-])C1=CC=C(CNO)C=C1
reactant | pyridine | 9.03 mmol, 0.7 mL | N1=CC=CC=C1 | C5H5N
reactant | (E)-6,7-dimethoxy-3,4-dihydronaphthalen-1(2H)-one O-4-nitrobenzyl oxime | [N+](=O)([O-])C1=CC=C(CO\N=C\2/CCCC3=CC(=C(C=C23)OC)OC)C=C1 | C19H20N2O5
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | (E)-5,6-Dimethoxy-2,3-dihydroinden-1-one O-4-Nitrobenzyl Oxime | 98 mg, 53% | [N+](=O)([O-])C1=CC=C(CO\N=C\2/CCC3=CC(=C(C=C23)OC)OC)C=C1 | C18H18N2O5
